US07427632B2
4-[(R)-2-Amino-2-(butyl)ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester
Using amino alcohol alkylation method A, but adding 1.1 equivalents of 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester instead of 1 equivalent, (R)-norleucinol (400 mg, 3.4 mmol) afforded, after purification (SiO2: 7:3:1 hexane:EtOAc:isopropyl amine), 195 mg (18%) of the title compound.

reactant | amino alcohol | NO | H3NO
reactant | 4-methanesulfonyloxymethyl-piperidine-1-carboxylic acid tert-butyl ester | 1.1 equivalents | C(C)(C)(C)OC(=O)N1CCC(CC1)COS(=O)(=O)C | C12H23NO5S
reactant | (R)-norleucinol | 3.4 mmol, 400 mg | N[C@H](CCCC)CO | C6H15NO
product | 4-[(R)-2-Amino-2-(butyl)ethoxymethyl]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC[C@@H](CCCC)N | C17H34N2O3
